US07223788B2
N-[4-(3-Dimethylaminopyrrolidin-1-yl)-phenyl]-6-hydroxynicotinamide
6-Hydroxynicotinic acid was reacted with [1-(4-aminophenyl)pyrrolidin-3-yl]dimethylamine by method E-b. This resulted in the product with the molecular weight of 326.17 (C18H22N4O2); MS (ESI): 327 (M+H+) as hydrotrifluoroacetate.

reactant | 6-Hydroxynicotinic acid | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | [1-(4-aminophenyl)pyrrolidin-3-yl]dimethylamine | NC1=CC=C(C=C1)N1CC(CC1)N(C)C | C12H19N3
product | N-[4-(3-Dimethylaminopyrrolidin-1-yl)-phenyl]-6-hydroxynicotinamide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(C1=CN=C(C=C1)O)=O)C | C18H22N4O2
